US07855297B2
N-(4-Isopropylphenyl)-7-methoxy-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.44 g) and cyclopentyl bromide (0.12 mL) were dissolved in DMF (5 mL), and sodium hydride (0.09 g) was added under ice-cooling. The mixture was stirred at the same temperature for 30 min and then at room temperature for 5 hr. The reaction mixture was concentrated under reduced pressure and partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give N-[(1-cyclopentylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.38 g).

reactant | N-(4-Isopropylphenyl)-7-methoxy-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.44 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC=1C=NNC1 | C25H29N3O2
reactant | cyclopentyl bromide | 0.12 mL | C1(CCCC1)Br | C5H9Br
reactant | sodium hydride | 0.09 g | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[(1-cyclopentylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.38 g | C1(CCCC1)N1N=CC(=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C30H37N3O2
